US08685991B2
Part A. Preparation of 1-(dimethoxymethyl)-4-nitrobenzene
A flask equipped with a magnetic stir bar and vigreux column was charged with 4-nitro-benzaldehyde (5.0 g, 33.1 mmol), pyridinium p-toluenesulfonate (1.66 g, 6.62 mmol), trimethoxymethane (3.51 g, 33.1 mmol) and methanol (100 mL). The mixture was heated at 50° C. for 12 h and was concentrated in vacuo. The residue was redissolved in EtOAc and washed with aq. NaOH (1M), H2O and brine. The mixture was dried (Na2SO4), filtered and concentrated in vacuo to yield the title compound as a clear, light yellow oily product (6.36 g, 97%).

reactant | 4-nitro-benzaldehyde | 33.1 mmol, 5.0 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | pyridinium p-toluenesulfonate | 6.62 mmol, 1.66 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | trimethoxymethane | 33.1 mmol, 3.51 g | COC(OC)OC | C4H10O3
solvent | methanol | 100 mL | CO | CH4O
product | 1-(dimethoxymethyl)-4-nitrobenzene | COC(C1=CC=C(C=C1)[N+](=O)[O-])OC | C9H11NO4
